US08648066B2
To a solution of 5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)pyridine-2,3-diamine (0.21 g, 0.45 mmol) in acetic acid (5 mL) was added 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (0.09 g, 0.45 mmol). The reaction mixture was heated (60° C.) for 12 h and then concentrated. The resulting residue was dissolved in acetonitrile and purified by preparative reverse phase HPLC to provide methyl [6-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridin-2-yl]carbamate (0.01 g, 4% yield) as a white solid. 1H NMR (400 MHz, DMSO-D6): δ 11.97 (bs, 1H), 8.51 (d, 1H), 8.28 (s, 1H), 7.79 (s, 1h), 7.42-7.50 (m, 1H), 6.95-7.13 (m, 6H), 4.53 (s, 2H), 4.25-4.32 (m, 2H), 4.00 (s, 2H), 3.74-3.84 (m, 5H), 2.16 (s; 3H); MS (EI) for C29H26FN7O3: 540 (MH+).

reactant | 5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)pyridine-2,3-diamine | 0.45 mmol, 0.21 g | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)N)N | C26H25FN6O
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 0.45 mmol, 0.09 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | methyl [6-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridin-2-yl]carbamate | 0.01 g, 4% yield | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)NC(OC)=O | C29H26FN7O3
